US05567721
4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthoylthiomethyl)benzoic acid
Allyl 4-acetylthiomethylbenzoate. 25.7 g (98 mmol) of triphenylphosphine and 100 ml of THF are introduced into a round-bottomed flask and 19.8 g (98 mmol) of diisopropyl azodicarboxylate, dissolved in 150 ml of THF, are added dropwise at 0° C. The mixture is stirred for one hour at 0° C. and a mixture of 9.4 g (49 mmol) of allyl 4-hydroxymethylbenzoate and 7 ml (98 mmol) of thioacetic acid is then added. The mixture is stirred at room temperature for four hours, the reaction medium is poured into water, the mixture is extracted with ethyl ether and the organic phase is separated after settling has taken place, then dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column and eluted with a mixture of dichloromethane and hexane (60:40). 12.2 g (100%) of the expected product are obtained in the form of an oil.

reactant | Allyl 4-acetylthiomethylbenzoate | C(C)(=O)SCC1=CC=C(C(=O)OCC=C)C=C1 | C13H14O3S
reactant | triphenylphosphine | 98 mmol, 25.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 98 mmol, 19.8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | allyl 4-hydroxymethylbenzoate | 49 mmol, 9.4 g | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
reactant | thioacetic acid | 98 mmol, 7 ml | C(C)(=S)O | C2H4OS
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthoylthiomethyl)benzoic acid | 12.2 g, 100% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)SCC1=CC=C(C(=O)O)C=C1)C | C23H26O3S
